.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.subckt temp_sensor_adc_model VGND VPWR adc_code[0] adc_code[10] adc_code[11] adc_code[1] adc_code[2] adc_code[3] adc_code[4] adc_code[5] adc_code[6] adc_code[7] adc_code[8] adc_code[9] adc_valid avdd avss sample_req sensor_temp_celsius[0] sensor_temp_celsius[10] sensor_temp_celsius[11] sensor_temp_celsius[12] sensor_temp_celsius[13] sensor_temp_celsius[14] sensor_temp_celsius[15] sensor_temp_celsius[1] sensor_temp_celsius[2] sensor_temp_celsius[3] sensor_temp_celsius[4] sensor_temp_celsius[5] sensor_temp_celsius[6] sensor_temp_celsius[7] sensor_temp_celsius[8] sensor_temp_celsius[9]
M1 n_valid_int sample_req avdd avdd sky130_fd_pr__pfet_01v8 W=1.00u L=0.15u
M2 n_valid_int sample_req avss avss sky130_fd_pr__nfet_01v8 W=1.00u L=0.15u
M3 adc_valid n_valid_int avdd avdd sky130_fd_pr__pfet_01v8 W=1.00u L=0.15u
M4 adc_valid n_valid_int avss avss sky130_fd_pr__nfet_01v8 W=1.00u L=0.15u
M5 adc_code[0] sensor_temp_celsius[0] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M6 adc_code[0] sensor_temp_celsius[0] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M7 adc_code[1] sensor_temp_celsius[1] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M8 adc_code[1] sensor_temp_celsius[1] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M9 adc_code[2] sensor_temp_celsius[2] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M10 adc_code[2] sensor_temp_celsius[2] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M11 adc_code[3] sensor_temp_celsius[3] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M12 adc_code[3] sensor_temp_celsius[3] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M13 adc_code[4] sensor_temp_celsius[4] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M14 adc_code[4] sensor_temp_celsius[4] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M15 adc_code[5] sensor_temp_celsius[5] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M16 adc_code[5] sensor_temp_celsius[5] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M17 adc_code[6] sensor_temp_celsius[6] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M18 adc_code[6] sensor_temp_celsius[6] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M19 adc_code[7] sensor_temp_celsius[7] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M20 adc_code[7] sensor_temp_celsius[7] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M21 adc_code[8] sensor_temp_celsius[8] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M22 adc_code[8] sensor_temp_celsius[8] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M23 adc_code[9] sensor_temp_celsius[9] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M24 adc_code[9] sensor_temp_celsius[9] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M25 adc_code[10] sensor_temp_celsius[10] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M26 adc_code[10] sensor_temp_celsius[10] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
M27 adc_code[11] sensor_temp_celsius[11] avdd avdd sky130_fd_pr__pfet_01v8 W=0.84u L=0.15u
M28 adc_code[11] sensor_temp_celsius[11] avss avss sky130_fd_pr__nfet_01v8 W=0.84u L=0.15u
.ends temp_sensor_adc_model
.end
